US04855426
To a solution of 1,2-methylenedioxybenzene (24.4 g, 0.20M) in AcOH (30 ml) was added ICl (40 g, 0.250M) in AcOH (50 ml) at room temperature over 0.5 hour. The reaction mixture was stirred for an additional three hours, then poured into H2O and extracted twice with ether. The organic extracts were washed with NaHSO3, saturated NaHCO3, H2O, dried (MgSO4), and evaporated in vacuo. The product was distilled under vacuum at 70° C. to give 3,4-methylenedioxyiodobenzene as a pale orange liquid (28.1 g, 57% yield). NMR (CDCl3) δ 5.85 (s, 2H, O--CH2 --O), 6.50 (d, 1H, J=8 Hz, H6), 7.10 (m, 2H, J=8 Hz, J=2 Hz, H2 and H5); MS: 248 (M+).

reactant | 1,2-methylenedioxybenzene | 0.20M, 24.4 g | C1OC2=C(C=CC=C2)O1 | C7H6O2
reactant | ICl | 0.250M, 40 g | ICl | ClI
reactant | H2O | O | H2O
solvent | AcOH | 30 ml | CC(=O)O | C2H4O2
solvent | AcOH | 50 ml | CC(=O)O | C2H4O2
product | 3,4-methylenedioxyiodobenzene | 28.1 g, 57% yield | C1OC=2C=C(C=CC2O1)I | C7H5IO2
